US04003908
d. 2,5-Dimethyl-7-ethoxy-3-ethyl-3H-imidazo[4,5-b]pyridine-6-carboxylic acid, ethyl ester
Crude 5-amino-4-ethoxy-6-ethylamino-2-methylpyridine-3-carboxylic acid, ethyl ester is refluxed in acetic acid overnight. The solvent is distilled off and the residue, 2,5-dimethyl-7-ethoxy-3-ethyl-3H-imidazo[4,5-b]pyridine-6-carboxylic acid, ethyl ester is recrystallized from petroleum ether, m.p. 62°-65° .

reactant | 5-amino-4-ethoxy-6-ethylamino-2-methylpyridine-3-carboxylic acid, ethyl ester | NC=1C(=C(C(=NC1NCC)C)C(=O)OCC)OCC | C13H21N3O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 2,5-Dimethyl-7-ethoxy-3-ethyl-3H-imidazo[4,5-b]pyridine-6-carboxylic acid, ethyl ester | CC1=NC=2C(=NC(=C(C2OCC)C(=O)OCC)C)N1CC | C15H21N3O3
